US08431602B2
3-(2-Methyl-propane-2-sulfinylamino)-3-phenyl-propionic acid methyl ester (1.73 mmol, 1 eq) is dissolved in 10 mL methanol (J. Org. Chem., 2002, 67, 7819-7832). A solution of HCl in dioxane (4 M, 10 mL) is added. The solution is stirred at room temperature for 45 min and concentrated in vacuo. 3-Amino-3-phenyl-propionic acid methyl ester hydrochloride is obtained as yellow viscous oil (135% crude product); ES-MS (MH+)=181.1.

reactant | 3-(2-Methyl-propane-2-sulfinylamino)-3-phenyl-propionic acid methyl ester | 1.73 mmol, 1 eq | COC(CC(C1=CC=CC=C1)NS(=O)C(C)(C)C)=O | C14H21NO3S
reactant | HCl | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | dioxane | 4 M, 10 mL | O1CCOCC1 | C4H8O2
product | 3-Amino-3-phenyl-propionic acid methyl ester hydrochloride | Cl.COC(CC(C1=CC=CC=C1)N)=O | InChI=1S/C10H13NO2.ClH/c1-13-10(12)7-9(11)8-5-3-2-4-6-8;/h2-6,9H,7,11H2,1H3;1H
